US04421758
(b) Trans-6-(4-acetamidophenoxymethyl)-2-[3-chloro-1-(4-fluorophenyl)propoxy]tetrahydropyran
A catalytic amount (2 drops) of phosphorus oxytrichloride was added to 10 ml of an ethereal solution containing 277 mg of 3-chloro-1-(4-fluorophenyl)propanol and 330 mg of 2-(4-acetamidophenoxymethyl)-3,4-dihydro-2H-pyran and the mixture was allowed to react at room temperature for 8 days. The precipitated crystals were separated by filtration, giving 240 mg of the isomer of lesser polarity of the title compound, melting at 133°-135° C.

reactant | 3-chloro-1-(4-fluorophenyl)propanol | 277 mg | ClCCC(O)C1=CC=C(C=C1)F | C9H10ClFO
reactant | 2-(4-acetamidophenoxymethyl)-3,4-dihydro-2H-pyran | 330 mg | C(C)(=O)NC1=CC=C(OCC2OC=CCC2)C=C1 | C14H17NO3
catalyst | phosphorus oxytrichloride | 2 drops | O=P(Cl)(Cl)Cl | Cl3OP
product | Trans-6-(4-acetamidophenoxymethyl)-2-[3-chloro-1-(4-fluorophenyl)propoxy]tetrahydropyran | C(C)(=O)NC1=CC=C(OC[C@H]2CCC[C@@H](O2)OC(CCCl)C2=CC=C(C=C2)F)C=C1 | C23H27ClFNO4
